************************************************************************
* auCdl Netlist:
* 
* Library Name:  Eight_Bit_CSL_Adder
* Top Cell Name: 2_to_1_mux
* View Name:     schematic
* Netlisted on:  Dec 23 19:27:01 2023
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: Eight_Bit_CSL_Adder
* Cell Name:    inverter
* View Name:    schematic
************************************************************************

.SUBCKT inverter GND VDD VIN VOUT
*.PININFO VIN:I VOUT:O GND:B VDD:B
MM0 VOUT VIN VDD VDD PMOS_VTL W=400n L=50n m=1
MM1 VOUT VIN GND GND NMOS_VTL W=270.0n L=50n m=1
.ENDS

************************************************************************
* Library Name: Eight_Bit_CSL_Adder
* Cell Name:    2_to_1_mux
* View Name:    schematic
************************************************************************

.SUBCKT 2_to_1_mux A B GND Sel VDD mux_out
*.PININFO A:I B:I Sel:I mux_out:O GND:B VDD:B
MM1 B ~Sel mux_out VDD PMOS_VTL W=400n L=50n m=1
MM0 A Sel mux_out VDD PMOS_VTL W=400n L=50n m=1
MM3 B Sel mux_out GND NMOS_VTL W=270.0n L=50n m=1
MM2 A ~Sel mux_out GND NMOS_VTL W=270.0n L=50n m=1
XI0 GND VDD Sel ~Sel / inverter
.ENDS

